US07897607B2
1-(6-Mesitylpyridin-2-yl)pentan-2-ol
1-(6-Bromopyridin-2-yl)pentan-2-ol (3.23 g, 13.2 mmol) was dissolved in 30 mL of 1,2-dimethoxyethane. Tetrakis(triphenylphosphine)palladium(0) (0.76 g, 0.66 mmol) was added and the solution was heated to 50° C. for 15 min. After cooling the solution, 2,4,6-trimethylbenzeneboronic acid (2.60 g, 15.9 mmol) in 15 mL 1,2-dimethoxyethane was added to parent solution. Potassium t-butoxide (2.96 g, 26.5 mmol) in 15 mL t-butanol was added last. The reaction was heated at 90° C. for 0.5 h. After cooling, the solution was filtered and concentrated. Flash chromatography (20% ethyl acetate/hexanes) gave the title compound (2.91 g, 77% yield).

reactant | 1-(6-Bromopyridin-2-yl)pentan-2-ol | 13.2 mmol, 3.23 g | BrC1=CC=CC(=N1)CC(CCC)O | C10H14BrNO
reactant | 2,4,6-trimethylbenzeneboronic acid | 15.9 mmol, 2.60 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | Potassium t-butoxide | 26.5 mmol, 2.96 g | CC(C)([O-])C.[K+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
solvent | t-butanol | 15 mL | C(C)(C)(C)O | C4H10O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.66 mmol, 0.76 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-Mesitylpyridin-2-yl)pentan-2-ol | 2.91 g, 77% yield | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC(CCC)O)C | C19H25NO
